US08252820B2
C. 2-Benzyloxy-3,5,6-trifluorophenylamine
A round bottom flask containing 2-benzyloxy-1,4,5-trifluoro-3-nitrobenzene (0.44 g, 1.54 mmol), zinc dust (0.50 g, 7.71 mmol) and solid ammonium chloride (0.17 g, 3.08 mmol) is added a mixture of ethanol and water (2:1 ratio, 15 mL total). The resulting slurry is heated at 60° C. for 90 min. The mixture is filtered, washed with methanol and the filtrate is concentrated. The residue is extracted twice with EtOAc and water, dried over MgSO4 and concentrated. The crude product is used directly in the next step without purification.

reactant | 2-benzyloxy-1,4,5-trifluoro-3-nitrobenzene | 1.54 mmol, 0.44 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1[N+](=O)[O-])F)F)F | C13H8F3NO3
reactant | ammonium chloride | 3.08 mmol, 0.17 g | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
catalyst | zinc | 7.71 mmol, 0.50 g | [Zn] | Zn
solvent | water | 15 mL | O | H2O
product | 2-Benzyloxy-3,5,6-trifluorophenylamine | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1F)F)F)N | C13H10F3NO
